US06333358B1
In 60 ml of methanol were dissolved 3.70 g of 2-aminodiphenyl ether and 3.70 g of 2,4-dimethoxybenzaldehyde, and then 70 mg of platinum oxide was added, followed by stirring at room temperature under a hydrogen stream overnight. To the reaction mixture was added 30 ml of chloroform for dissolving the precipitate, and the catalyst was separated by filtration. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from methanol to give 5.06 g of N-(2,4-dimethoxybenzyl)-2-phenoxyaniline.

reactant | 2-aminodiphenyl ether | 3.70 g | C1=CC=C(C=C1)OC2=CC=CC=C2N | C12H11NO
reactant | 2,4-dimethoxybenzaldehyde | 3.70 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 60 ml | CO | CH4O
catalyst | platinum oxide | 70 mg | [Pt]=O
product | N-(2,4-dimethoxybenzyl)-2-phenoxyaniline | 5.06 g | COC1=C(CNC2=C(C=CC=C2)OC2=CC=CC=C2)C=CC(=C1)OC | C21H21NO3
